US05284837
A solution of 4-acetoxy-2-hydroxymethylbutyl acetate (11.04 g, 0.054 mol) and triphenylphospine (21.27 g, 0.081 mol) in dry dichloro methane (150 ml) was stirred at 0° C., and N-bromo-succinimide (14.43 g, 0.081 mol) was added in portions. The mixture was kept at 0° C. for 20 h, evaporated to small volume and stirred with 50 ml of ethyl acetate+n-hexane (1+1). the white triphenylphospine oxide was filtered off and washed with a little ethyl acetate+n-hexane (1-1). The combined filtrate was evaporated and purified on a 200 g SiO2 column with ethyl acetate+n-hexane (1+1) as eluent. The 250 -550 ml fraction was evaporated in vacuum to give 11.90 g (82%) of pure 4-acetoxy-2-bromomethylbutyl acetate. TLC on silica (ethyl acetate+n-hexane 1+1): Rf 0.59.

reactant | 4-acetoxy-2-hydroxymethylbutyl acetate | 0.054 mol, 11.04 g | C(C)(=O)OCC(CCOC(C)=O)CO | C9H16O5
reactant | triphenylphospine | 0.081 mol, 21.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromo-succinimide | 0.081 mol, 14.43 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloro methane | 150 ml | ClCCl | CH2Cl2
product | 4-acetoxy-2-bromomethylbutyl acetate | 11.90 g, 82% | C(C)(=O)OCC(CCOC(C)=O)CBr | C9H15BrO4
